US07262212B2
A mixture of (R)-2-bromo-4-nitro-1-(2-methyl-2-oxiranylmethyl)imidazole (485 mg, 1.75 mmol), 1-[1-(4-trifluoromethoxyphenyl)piperidin-4-yl]piperazine (720 mg, 2.19 mmol) and ethanol (10 ml) was stirred at 50° C. for 8 hours. The reaction mixture was concentrated, and the residue was purified by silica gel column chromatography (methylene chloride/methanol=20/1) to obtain (S)-1-(2-bromo-4-nitroimidazol-1-yl)-2-methyl-3-{4-[1-(4-trifluoromethoxyphenyl)piperidin-4-yl]piperazin-1-yl}propan-2-ol (792 mg, yield 77%) as a yellow amorphous form.

reactant | (R)-2-bromo-4-nitro-1-(2-methyl-2-oxiranylmethyl)imidazole | 1.75 mmol, 485 mg | BrC=1N(C=C(N1)[N+](=O)[O-])C[C@]1(OC1)C | C7H8BrN3O3
reactant | 1-[1-(4-trifluoromethoxyphenyl)piperidin-4-yl]piperazine | 2.19 mmol, 720 mg | FC(OC1=CC=C(C=C1)N1CCC(CC1)N1CCNCC1)(F)F | C16H22F3N3O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | (S)-1-(2-bromo-4-nitroimidazol-1-yl)-2-methyl-3-{4-[1-(4-trifluoromethoxyphenyl)piperidin-4-yl]piperazin-1-yl}propan-2-ol | 792 mg, yield 77% | BrC=1N(C=C(N1)[N+](=O)[O-])C[C@](CN1CCN(CC1)C1CCN(CC1)C1=CC=C(C=C1)OC(F)(F)F)(O)C | C23H30BrF3N6O4
